US06818660B2
2-Cyano-3-methoxyphenol (1 g, 6.7 mmol) and powdered potassium carbonate (2.78 g, 20.1 mmol) were stirred in 15 mL of acetone for 5 minutes, followed by addition of epibromohydrin (1.38 g, 10.1 mmol). The mixture was stirred for 72 hours then poured into water/ether. The ether layer was separated, washed with sodium carbonate and saturated brine, dried over anhydrous sodium sulfate, and concentrated. The resulting crude solid was triturated with ether/hexane, filtered, and dried under vacuum to give 0.44 g of 2-cyano-3-methoxyphenyl glycidyl ether.

reactant | 2-Cyano-3-methoxyphenol | 6.7 mmol, 1 g | C(#N)C1=C(C=CC=C1OC)O | C8H7NO2
reactant | potassium carbonate | 20.1 mmol, 2.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 10.1 mmol, 1.38 g | C(Br)C1CO1 | C3H5BrO
reactant | water ether | O.CCOCC
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 2-cyano-3-methoxyphenyl glycidyl ether | 0.44 g | C(C1CO1)OC1=C(C(=CC=C1)OC)C#N | C11H11NO3
